US07727985B2
Intermediate 9: 6-chloro-7-ethoxy-8-nitro-9H-β-carboline
Sodium ethoxide (232 mg, 3.4 mmol) was added to a solution of 6-chloro-7-fluoro-8-nitro-9H-β-carboline (200 mg, 0.76 mmol) in DMSO (4 ml) and the reaction mixture allowed to stir overnight. The reaction mixture was diluted with water and the pH of the solution was adjusted to about 4 by adding 1N HCl. The aqueous solution was extracted (3×) with EtOAc. The combined EtOAc layers were dried and evaporated. The crude product was purified by flash chromatography to give the desired product in 40-60% yield.

reactant | Sodium ethoxide | 3.4 mmol, 232 mg | [O-]CC.[Na+]
reactant | 6-chloro-7-fluoro-8-nitro-9H-β-carboline | 0.76 mmol, 200 mg | ClC=1C=C2C=3C=CN=CC3NC2=C(C1F)[N+](=O)[O-] | C11H5ClFN3O2
reactant | HCl | 1N | Cl | ClH
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 6-chloro-7-ethoxy-8-nitro-9H-β-carboline | 40-60% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1OCC)[N+](=O)[O-] | C13H10ClN3O3
